US05792764
2-Methyl-3-thioxo-2.3-dihydro-4H-pyrido[4,3-e]-1,2,4-thiadiazine 1,1-dioxide
A solution of N-methyl-4-aminopyridine-3-sulfonamide (de Tullio et al., Tetrahedron 1995, 3221-3234) (5.0 g) and thiocarbonyidiimidazole (7.5 g) in dioxane (30 mL) and DMF (15 mL) was heated at 90° C. for 2 h. The solvents were removed by distillation under reduced pressure. The residue was dispersed in 0.6N NaOH (20 mL) and stirred for 30 min. The alkaline solution was treated with charcoal, filtered, and the filtrate was adjusted to pH 4-5. The precipitate was collected by filtration, washed with water and dried (yield: 4 g); m.p. 195°-198° C. (Compound IV).

reactant | N-methyl-4-aminopyridine-3-sulfonamide | 5.0 g | CNS(=O)(=O)C=1C=NC=CC1N | C6H9N3O2S
reactant | thiocarbonyidiimidazole | 7.5 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-Methyl-3-thioxo-2.3-dihydro-4H-pyrido[4,3-e]-1,2,4-thiadiazine 1,1-dioxide | CN1S(C2=C(NC1=S)C=CN=C2)(=O)=O | C7H7N3O2S2
